US07208493B2
6-(2-chloro-6-methoxyphenyl)-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one
To a solution of 6-Bromo-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one (11.6 mg, 0.039 mmol) dissolved in 1 ml N,N-dimethylacetamide in a 20 ml vial, 2-chloro-6-methoxy-phenylboronic acid (14.55 mg, 0.078 mmol) dissolved in 0.5 ml ethanol and potassium carbonate (5.92 mg, 0.043 mmol) dissolved in 0.5 ml water were added. Triphenylphosphine (1 mg, 3.8 umol) and tris(dibenzylideneacetone)dipalladium (0) (0.7 mg, 0.78 umol) were added to the mixture which refluxed overnight. The crude product was poured into 5 ml saturated bicarbonate solution and methylene chloride was used to extract the product. Solvent in the organic phase was removed under vacuum. The resulted residue was purified by preparative HPLC. 3.4 mg product was obtained. Yield: 24.3%; 1H NMR (500 MHz, DMSO-d6): δ 2.75538–2.78226(t, J=6.835 Hz, 2H), 3.70334(s, 3H), 4.15877–4.18594 (t, J=6.785 Hz, 2H), 7.13724–7.15535 (dd, J1=8.68 Hz, J2=0.75 Hz, 1H), 7.18337–7.20169 (dd, J1=8.375 Hz, J2=0.885 Hz, 1H), 7.41001–7.44275 (dd, J1=8.215 Hz, J2=8.185 Hz, 1H), 7.66453–7.68523 (dd, J1=8.38 Hz, J2=2.0 Hz, 1H), 7.72 (d, J=8.4 Hz, 1H), 7.96 (d, J=1.9 Hz, 1H), 8.41 (s, 1H); ESI-MS: m/z 359 (M++1)

reactant | 6-Bromo-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one | 0.039 mmol, 11.6 mg | BrC=1C=C2C(N(C=NC2=CC1)C(CCO)=O)=O | C11H9BrN2O3
reactant | 2-chloro-6-methoxy-phenylboronic acid | 0.078 mmol, 14.55 mg | ClC1=C(C(=CC=C1)OC)B(O)O | C7H8BClO3
reactant | potassium carbonate | 0.043 mmol, 5.92 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Triphenylphosphine | 3.8 umol, 1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bicarbonate | 5 ml | C([O-])(O)=O
solvent | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | water | 0.5 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.78 umol, 0.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(2-chloro-6-methoxyphenyl)-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one | 3.4 mg, Yield: 24.3% | ClC1=C(C(=CC=C1)OC)C=1C=C2C(N(C=NC2=CC1)C(CCO)=O)=O | C18H15ClN2O4
